Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / vancomycin / CHG / amlodipine
 
Attending: ___.
 
Chief Complaint:
Radical prostatectomy
 
Major Surgical or Invasive Procedure:
Minimally invasive radical prostatectomy (___)
 
History of Present Illness:
___ M PMHx STEMI (___) notable for RCA occlusions, LAD 
occlusion s/p DES x2 complicated by cardiogenic shock requiring 
LVAD placement (now with destination Heartware, undergoing 
work-up for transplant) c/b GIB and midbrain stroke, recent 
admission for syncope thought to be ___ orthostasis (discharged 
___ who presented for planned radical minimally invasive 
prostatectomy ___ prostate cancer transferred to medical service 
for monitoring.

Patient underwent prostatectomy on ___ by Dr. ___ 
Urology; procedure was uncomplicated. His aspirin has been held 
x1 week. He has been continued on Coumadin with goal INR 
2.0-3.0. Post-op LVAD alarmed for low flow in the setting of 
hypertension; he received hydralazine 10mg IV x2/hydralazine 
10mg po x1 post-procedure for hypertension.

On transfer, patient reports feeling "okay"; he notes his pain 
is well controlled and he is using his PCA. He denies CP/palp, 
SOB, bloating, lightheadedness/dizziness. 

 
Past Medical History:
1. Hypertension, complicated by orthostatic hypotension
2. STEMI (had 100% RCA occlusion, 100% LAD occlusion), now s/p 
2x DES to LAD, with cardiogenic shock requiring Heartware VAD 
Placement in ___
3. GI bleeding
4. Ventricular Tachycardia
5. Right Hemothorax
6. Midbrain stroke with residual vision changes (___)
7. Prostate Cancer ___ 3+3 from biopsy in ___ s/p 
radical minimally invasive prostatectomy (___)
 
Social History:
___
Family History:
Mother: Had "fluid in her lungs", died of MI
Brother: stomach cancer
 
Physical Exam:
ADMISSION:
VS: 97.6 67 18 100%2L
Heartware VAD Interrogation:
Flow:  3.1 L/min 
Speed: 2600 RPM's
Watts: 3.5 
Doppler 80
Alarms:  none
GENERAL: well appearing, NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NC/AT. Sclera anicteric. PERRL, EOMI. OP clear
NECK: Supple, no elevated JVP
CARDIAC:  continuous motor-type sound 
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-distended, (+) diffuse TTP. (+) JP drain in L 
abdomen draining sanguinous fluid, (+) drive line c/d/I without 
erythema or drainage
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

DISCHARGE:
VS: 98.0 Afeb; ___ doppler; pulse in ___ RR 18 satting 99% on 
RA
LVAD: Doppler ___ flow 4.4-5.6 @ 2600, power 3.5-3.8  
Weight: 65.6 (discharge) <- 66.9 <- 67.7 <- 69.0 <- 69.6 <- 
71.2kg <- 71.5kg <-75.9kg (from ___  
I/O: 
8hr: ___
24hr: 1725/2450+
GENERAL: well appearing, NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NC/AT. Sclera anicteric. PERRL, EOMI. OP clear  
NECK: Supple, no elevated JVP  
CARDIAC: continuous motor-type sound  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-distended, appropriately TTP at surgical 
sites without rebound or guarding, (+) bandage over JP site, (+) 
drive line c/d/I without erythema or drainage, (+) ecchymoses 
over RLQ, mid-abdomen and flank  
EXTREMITIES: No c/c/e. No femoral bruits.  
 

 
Pertinent Results:
ADMISSION:
___ 11:11AM   WBC-7.4 RBC-3.92* HGB-11.9* HCT-37.1* MCV-95 
MCH-30.4 MCHC-32.1 RDW-16.4* RDWSD-57.0*
___ 11:11AM   GLUCOSE-86 UREA N-14 CREAT-1.0 SODIUM-135 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-26 ANION GAP-13
___ 11:19AM   ALT(SGPT)-27 AST(SGOT)-21 LD(LDH)-158 ALK 
PHOS-114 TOT BILI-0.8
___ 05:35PM   ___

PERTINENT
___ 06:35AM BLOOD ALT-38 AST-37 LD(LDH)-432* AlkPhos-88 
TotBili-0.9
___ 01:10PM BLOOD HEMOGLOBIN, FREE-    4.1                 
<8.4 mg/dL

DISCHARGE
___ 05:57AM BLOOD WBC-10.6* RBC-3.19* Hgb-9.5* Hct-30.4* 
MCV-95 MCH-29.8 MCHC-31.3* RDW-16.4* RDWSD-57.1* Plt ___
___ 05:57AM BLOOD Plt ___
___ 05:57AM BLOOD ___ PTT-32.8 ___
___ 05:57AM BLOOD Glucose-87 UreaN-15 Creat-0.9 Na-134 
K-4.9 Cl-99 HCO3-25 AnGap-15
___ 05:57AM BLOOD ALT-48* AST-37 LD(LDH)-358* AlkPhos-95 
TotBili-0.7
___ 05:57AM BLOOD Calcium-8.9 Phos-4.5 Mg-2.1

IMAGING:
-KUB (___): IMPRESSION:  
Multiple dilated loops of small and large bowel, query 
mechanical small bowel obstruction versus ileus.  If there is 
clinical concern for mechanical small bowel obstruction, further 
evaluation with CT scan can be performed 

-CT A/P (___): IMPRESSION:
1. Pneumoperitoneum and a moderate amount of hemorrhagic 
ascites, more dense in the pelvis, without evidence of active 
extravasation. These may be expected findings after 
prostatectomy. 
2. Diffusely prominent small bowel loops with small bowel feces 
sign in the pelvis, concerning for small bowel obstruction. 
3. Small to moderate bilateral pleural effusions with adjacent 
atelectasis. 
NOTIFICATION: The findings were discussed with ___, 
M.D. by ___, M.D. on the telephone on ___ at 10:30 
AM, 5 minutes after discovery of the findings. 

MICRO:
-Blood cx: NGTD  
-Urine cx: ___ 9:43 am URINE Source: Catheter.  
 URINE CULTURE (Preliminary):  
 ESCHERICHIA COLI. >100,000 ORGANISMS/ML..  
 PRESUMPTIVE IDENTIFICATION.  
 GRAM NEGATIVE ROD #2. 10,000-100,000 ORGANISMS/ML..  
 SENSITIVITIES: MIC expressed in MCG/ML  
 _________________________________________________________  
 ESCHERICHIA COLI  
 |  
 AMPICILLIN------------ =>32 R  
 AMPICILLIN/SULBACTAM-- =>32 R  
 CEFAZOLIN------------- 8 R  
 CEFEPIME-------------- <=1 S  
 CEFTAZIDIME----------- <=1 S  
 CEFTRIAXONE----------- <=1 S  
 CIPROFLOXACIN---------<=0.25 S  
 GENTAMICIN------------ <=1 S  
 MEROPENEM-------------<=0.25 S  
 NITROFURANTOIN-------- <=16 S  
 PIPERACILLIN/TAZO----- 8 S  
 TOBRAMYCIN------------ <=1 S  
 TRIMETHOPRIM/SULFA---- <=1 S  

PATH:
-Prostate biopsy (___): 
1) Fat, anterior prostate (1A-1B):
- Unremarkable fibroadipose tissue.
2) Prostate and seminal vesicles, radical prostatectomy 
(2A-2AH):
- Prostatic adenocarcinoma, ___ score 6 (3+3) with a 
tertiary pattern 4, organ confined, margins are negative. See 
synoptic report.

 
Brief Hospital Course:
___ M PMHx STEMI c/b cardiogenic shock now with destination 
LVAD, (+) prostate cancer s/p radical prostatectomy (___) 
admitted for post-op monitoring with hospital course complicated 
by ileus, UTI, and LVAD thrombus.

MEDICINE COURSE
=========================
# Ischemic cardiomyopathy s/p LVAD (Heartware): LVAD in place 
after large STEMI (___) c/b cardiogenic shock. Patient 
currently has destination LVAD, undergoing evaluation for 
transplant. In anticipation of surgical intervention, his 
aspirin was been held x1 week and Coumadin was continued with 
INR goal prior to surgery 2.0-2.4. Patient was admitted to ___ 
___ following surgery for post-operative monitoring. He 
underwent a driveline change on admission (___). His INR was 
significantly elevated on admission; he was continued on 
lower-dose Coumadin. His aspirin 325mg was restarted on ___. 
His flurinef was held. From a Cardiac perspective he remained 
stable with no LVAD alarms; however he developed a 
post-operative ileus and bleeding and was transferred to the 
CVICU on ___ for further monitoring.  He was subsequently 
discharged from the FICU to the CHF team. On the floor he 
alarmed high flow, c/f possible thrombus (see below) but 
otherwise remained stable. He resumed florinef on discharge 
given his net-negative I's/o's off any diuresis. 
PRELOAD: none
AFTERLOAD: Continue lisinopril 2.5mg BID 
INOTROPY: LVAD in place; anticoagulated now with warfarin, on 
ASA 325 and dig 0.125 daily

#LVAD thrombus: post-procedure, patient developed high flows and 
uptrending LDH, concerning for LVAD thrombus. He had been on 
heparin gtt ___ along with his Coumadin. He was 
transitioned from heparin gtt to bivalirudin gtt for treatment. 
His LDH was monitored and subsequently downtrended. Following 
stabilization in his LDH, he was transitioned to po 
Coumadin/aspirin 325mg. 

# Prostate Cancer s/p radical prostatectomy (___): patient 
found to have elevated PSA, s/p biopsy (+) for Gleasson 6 (3+3) 
prostate cancer. He was admitted to ___ following  minimally 
invasive prostatectomy by Dr. ___ Urology. Surgery was 
uncomplicated; however following surgery patient developed 
nausea/vomiting. Imaging was concerning for an ileus, thought to 
be ___ patient not ambulating. In addition, patient developed 
significant leaking of old blood from his left JP drain site. A 
CT A/P was obtained which was concerning for hemorrhagic ascites 
and diffusely prominent small bowel loops with small bowel feces 
concerning for SBO. He was transferred to the CVICU for further 
monitoring where he remained stable and was transferred out to 
the floor and his foley was removed. Patient was some occasional 
urinary incontinence by the time of discharge but otherwise 
tolerated the procedure well. 

# UTI: Patient presented with leukocytosis following his 
surgery. Urine culture grew e. coli. He was initially treated 
with cefepime, and transitioned to Bactrim ___ when came back 
as e.coli and enterobacter. Being treated with bactrim ds BID 
for 14 day course (___)

# History of Ventricular Tachycardias: patient with history 
notable for VT, especially in setting of low VAD flow and 
suction events. He was monitored on telemetry and continued on 
his home mexilitine. 

#History of midbrain stroke: s/p thromboembolic stroke to 
midbrain on ___ c/b vision changes, found to have CNIII 
palsy. He remained stable during this admission. 

#Syncope: patient w/recent admission (d/c ___ syncope 
c/b fall, attributed to orthostasis. He was continued on 
lisinopril 2.5mg BID. His flurinef was discontinued during this 
admission and restarted on discharge

# History of GI bleed: in setting of LVAD/anti-coagulation 
initiation. His H/H was monitored and remained stable.

======================
TRANSITIONAL ISSUES:
======================
- INR 2.8 at discharge
- Discharge weight: 65.5kg
- Continue bactrim ds BID for 14 day course (___)
- Fludrocortisone 0.1mg, 3x/w (___)
- Consider adding persantine if any e/o clotting moving forward
- Patient needs repeat PSA prior to next appointment with 
Urology on ___. 
- Recheck INR ___, goal ___

# CODE: Full 
# CONTACT: ___ (wife) ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fludrocortisone Acetate 0.1 mg PO DAILY 
2. Lisinopril 2.5 mg PO BID 
3. Magnesium Oxide 400 mg PO BID 
4. Digoxin 0.125 mg PO DAILY 
5. Docusate Sodium 100 mg PO DAILY 
6. Mexiletine 250 mg PO Q12H 
7. Amiodarone 200 mg PO DAILY 
8. Warfarin 2 mg PO DAILY16 
9. Atorvastatin 40 mg PO QPM 
10. Ferrous Sulfate 325 mg PO BID 
11. Pantoprazole 40 mg PO Q12H 
12. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0
2. Amiodarone 200 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Atorvastatin 40 mg PO QPM 
5. Digoxin 0.125 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO BID 
7. Lisinopril 2.5 mg PO BID 
8. Magnesium Oxide 400 mg PO BID 
9. Mexiletine 250 mg PO Q12H 
10. Pantoprazole 40 mg PO Q12H 
11. Warfarin 2.5 mg PO DAILY16 
RX *warfarin 2.5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
12. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*11 Tablet Refills:*0
13. Fludrocortisone Acetate 0.1 mg PO 3X/WEEK (___) 
RX *fludrocortisone 0.1 mg 1 tablet(s) by mouth three times a 
week Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-Prostate cancer status-post radical prostatectomy
-Ileus
-Urinary tract infection
-Chronic systolic congestive heart failure with Left ventricular 
assist device 

SECONDARY DIAGNOSES:
-Hypertension
-Ventricular tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ following your prostatectomy. Your 
surgery was uncomplicated. You spent some time in the Intensive 
Care Unit for close monitoring. Unfortunately after your surgery 
you developed an ileus, or slow movement of your bowels, which 
resolved on its own. You also had a urinary tract infection 
requiring a course of intravenous (or IV, through your vein) 
antibiotics. In addition, your LDH was high concerning for a 
clot in your LVAD and you received anticoagulation with a 
bivalirudin drip to treat the clot. Your level of 
anticoagulation on warfarin subsequently increased to an 
appropriate level, so your bivalirudin was stopped.

Moving forward: 
-You should continue to take the medications below as written. 
-If you notice any changes in the readings on your LVAD device, 
you should contact your cardiologist immediately.  
-Please reference the additional handout provided by your 
urologist with instructions and information about your surgery 
and post-operative plan of care.
-You will continue taking antibiotics for your urinary tract 
infection through ___.
-You were restarted on your floirinef 3 times a week.
-Resume your pre-admission medications except as noted AND note 
that you NO longer need to take medications that shrink your 
prostate (Hytrin, Avodart, Flomax, etc.)
-You may take Tylenol for pain control. The maximum dose of 
Tylenol (ACETAMINOPHEN) is 4 grams (from ALL sources) PER DAY.
-For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 
-No heavy lifting for 4 weeks (no more than 10 pounds). Light 
household chores are generally “ok”.  Fold laundry but ___ 
lift it. Wash/Dry dishes. Do not Vacuum. 
-resume regular home diet and remember to drink plenty of fluids 
to keep hydrated and to minimize risk of constipation. 
-___ medical attention for fevers (temp>101.5), worsening pain, 
drainage or excessive bleeding from incision, chest pain or 
shortness of breath.

Thank you for letting us be a part of your care!
Your ___ Team
 
Followup Instructions:
___